US07915268B2
tert-Butyl 4-fluoro-2-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)phenylcarbamate.
Potassium carbonate (207 mg) was added to a stirred solution of 2-chloro-5-nitro-4-thiocyanatopyrimidine (108 mg) and tert-butyl 4-fluoro-2-nitrophenylcarbamate (113 mg) in ACN (5 mL) and stirred for 15 hr. The solution was diluted with brine and extracted with EtOAc (2×). The combined organics were evaporated and purified via column chromatography, elution with 30% EtOAc/Hex gave the titled compound (144 mg, 71% yield).

reactant | Potassium carbonate | 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitro-4-thiocyanatopyrimidine | 108 mg | ClC1=NC=C(C(=N1)SC#N)[N+](=O)[O-] | C5HClN4O2S
reactant | tert-butyl 4-fluoro-2-nitrophenylcarbamate | 113 mg | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C11H13FN2O4
solvent | ACN | 5 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | tert-Butyl 4-fluoro-2-(5-nitro-4-thiocyanatopyrimidin-2-ylamino)phenylcarbamate | 144 mg, 71% yield | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)NC1=NC=C(C(=N1)SC#N)[N+](=O)[O-] | C16H15FN6O4S
